US04346226
In the first step ergosterol (24β-methylcholesta-5,7,22-trien-3β-ol) is allowed to react with p-toluenesulfonyl chloride in pyridine at 22° C. to give ergosterol tosylate. In the second step, solvolysis of ergosterol tosylate in aqueous acetone with potassium bicarbonate gave i-ergosterol which when oxidized with chromic acid in pyridine yielded the i-ketone, 24β-methyl-3,5-cyclocholesta-7,22-dien-6-one-, (step 3). In step 4 the i-ketone is reduced with lithium in liquid ammonia to 24β-methyl-3,5-cyclocholest-22-en-6-one. Acid rearrangement of this crude ketone by refluxing in glacial acetic acid-5 N sulfuric acid, 20 ml: 5 ml per gram of the ketone, (step 5) followed by saponification of the resulting acetate (step 6) gave by 3β-hydroxy-24β-methyl-5α-cholest-22-en-6-one in an overall 33% purified yield from ergosterol without purification of any intermediates. In step 7, 3β-hydroxyl-24β-methyl-5α-cholest-22-en-6-one was allowed to react with p-toluene-sulfonyl chloride in pyridine at 22° C. to give the tosylate which upon detosylation (step 8) in dimethylformamide containing 10% lithium bromide gave 24β-methyl-5α-cholesta-2,22-dien-6-one. In the ninth step, treatment of the ketone from step 8 for 3 days at 22° C. in dry benzene that contained a trace of pyridine and two molar equivalents of osmium tetroxide gave in nearly quantitative yield on reductive cleavage of the osmate ester, a 1:1 mixture of 2α,3α,22β,23β-tetrahydroxy-24β-methyl-5α-cholestan-6-one and 2α,3α,22α,23α-tetrahydroxy-24β-methyl-5α-cholestan-6-one. The tetrahydroxy ketones were separated by column chromatography and the respective ketones were acetylated in pyridineacetic anhydride (3:1) at 65° C. for 18 hours or at 22° C. for 48 hours (step 10). In step 11, a Baeyer-Villiger oxidation of crude tetraacetoxyketone in chloroform or benzene with two molar equivalents of m-chloroperbenzoic acid for 10 to 14 days at 22° C. gave the crude tetraacetoxy-7-oxa-ketone (lactone). Both lactones also contained a small quantity of the respective isomeric 6-oxa-ketone and were purified by column chromatography. In the final step of the synthesis, saponification of the tetraacetoxylactone obtained from the Baeyer-Villiger oxidation of 2α,3α,22β,23β-tetraacetoxy-24β-methyl-5α-cholestan-6-one with 4% potassium carbonate in refluxing 70% aqueous methanol yielded 2α,3α, 22β, 23β-tetrahydroxy-24β-methyl-B-homo-7-oxa-5α-cholestan-6-one (compound III) in 25% overall yield from 24β-methyl-5α-cholesta-2,22-dien-6-one. Similarly, saponification of the tetraacetoxy lactone obtained from the Baeyer-Villiger oxidation of 2α,3α,22α,23α-tetraacetoxy-24β-methyl-5α-cholestan-6-one yielded 2α,3α,22α, 23α-tetrahydroxy-24β-methyl-B-homo-7-oxa-5α-cholestan-6-one (compound IV) in 20% overall yield from 24β-methyl-5α-cholesta-2,22-dien-6-one. With the sterols that contain double bonds both at C-5 and C-22, such as 22-dehydrocholesterol, brassicasterol, stigmasterol and poriferasterol, the sequence of reactions for preparing compounds of this invention are identical to those utilized in preparing compounds III and IV from ergosterol except the lithium ammonia reduction is not required since there is no Δ7 -bond to be reduced. However, oxidation of the intermediate, 24α-ethyl-5α-cholesta 2,22-dien-6-one, obtained from stigmasterol, with osmium tetroxide gave predominantly 2α,3α,22β,23β-tetrahydroxy-24α-ethyl-5α-cholestan-6-one, whereas a similar oxidation of 24β-methyl-5α-cholesta-2,22-dien-6-one gave an equal mixture of the tetrahydroxy ketone with 22β,23β-and 22α,23α-hydroxyls orientation. Thus, the carrying out of the sequence of reactions from stigmastrol to completion yielded mainly 2α,3α,22β,23β-tetrahydroxy-24α-ethyl-B-homo-7-oxa-5α-cholestan-6-one (compound VII).

reactant | ergosterol | C[C@H](/C=C/[C@H](C)C(C)C)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3C2=CC=C4[C@@]3(CC[C@@H](C4)O)C)C | C28H44O
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | ergosterol tosylate | C[C@H](/C=C/[C@H](C)C(C)C)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3C2=CC=C4[C@@]3(CC[C@@H](C4)O)C)C.S(=O)(=O)([O-])C1=CC=C(C)C=C1 | InChI=1S/C28H44O.C7H8O3S/c1-18(2)19(3)7-8-20(4)24-11-12-25-23-10-9-21-17-22(29)13-15-27(21,5)26(23)14-16-28(24,25)6;1-6-2-4-7(5-3-6)11(8,9)10/h7-10,18-20,22,24-26,29H,11-17H2,1-6H3;2-5H,1H3,(H,8,9,10)/p-1/b8-7+;/t19-,20+,22-,24+,25-,26-,27-,28+;/m0./s1
